US06441184B1
A solution of 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid methyl ester (2.92 g, 7.72 mmol) in tetrahydrofuran/water (3:1, 88 mL) was treated with lithium hydroxide (647 mg, 15.43 mmol). The reaction was stirred at 25° C. for 3 d. The tetrahydrofuran was then removed in vacuo. The residue was diluted with water (50 mL) and extracted with diethyl ether (25 mL). The aqueous layer was acidified to pH=1 with a 3N aqueous hydrochloric acid solution. The product was extracted into ethyl acetate (3×75 mL) and diethyl ether (1×50 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (2×100 mL), dried over magnesium sulfate and sodium sulfate, filtered, and concentrated in vacuo to give 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid (2.37 g, 84.5%) as a pale-yellow semi-solid: EI-HRMS m/e calcd for C16H19F3O4S (M+) 364.0956, found 364.0958.

reactant | 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid methyl ester | 7.72 mmol, 2.92 g | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F)=O | C17H21F3O4S
reactant | lithium hydroxide | 15.43 mmol, 647 mg | [OH-].[Li+]
solvent | tetrahydrofuran water | 88 mL | O1CCCC1.O
product | 3-cyclopentyl-2-(4-methanesulfonyl-3-trifluoromethyl-phenyl)-propionic acid | 2.37 g, 84.5% | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)C(F)(F)F | C16H19F3O4S
